US06531502B1
A mixture of 24 g of dimethylformamide and 300 mL of dichloromethane was cooled to −9° C. Phosphorus oxychloride (50 g) was rapidly added via an addition funnel. 3-(4,5,6,7-tetrahydro-1H-indol-3-yl)-propionic acid (54.9 g) was added in portions with vigorous stirring. The mixture was warmed to room temperature and then refluxed for 10 minutes. It was then cooled to 5° C. and diluted with 300 mL of water. The pH was adjusted to 10 using 10N sodium hydroxide. The layers were separated. The aqueous layer was cooled to 10° C. and the pH adjusted to 2-3 with about 130 mL of 10 N hydrochloric acid. The oil which formed solidified and was collected by vacuum filtration, washed three times with water and dried under vacuum at 50° C. to give 52.8 g (93% yield) of 3-(2-formyl-4,5,6,7-tetrahydro-1H-indol-3-yl)-propionic acid as a dark brown solid.

reactant | dimethylformamide | 24 g | CN(C=O)C | C3H7NO
reactant | Phosphorus oxychloride | 50 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3-(4,5,6,7-tetrahydro-1H-indol-3-yl)-propionic acid | 54.9 g | N1C=C(C=2CCCCC12)CCC(=O)O | C11H15NO2
reactant | sodium hydroxide | 10N | [OH-].[Na+]
solvent | water | 300 mL | O | H2O
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | 3-(2-formyl-4,5,6,7-tetrahydro-1H-indol-3-yl)-propionic acid | 52.8 g, 93% yield | C(=O)C=1NC=2CCCCC2C1CCC(=O)O | C12H15NO3
